US07566735B2
4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzonitrile
A mixture of 4-iodobenzonitrile (2.41 g, 10.5 mmol), 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (2.0 g, 10.5 mmol), copper (I) oxide (20 mol %, 2.1 mmol, 300 mg), N,N-dimethylglycine (10.5 mmol, 1.082 g), and cesium carbonate (21 mmol, 6.84 g) in dimethylsulfoxide (5 ml) was heated in an oil bath at 130° C. under argon for 4 h. The reaction mixture was diluted with ethyl acetate. Solid filtered off through kieselguhr. The filtrate was partitioned between ethyl acetate and water. The organic layer was separated and dried over sodium sulphate. The solvent was removed by rotary evaporation and triturated with diethyl ether to give the title compound as a light brown solid (1.812 g, 59.5%).

reactant | 4-iodobenzonitrile | 10.5 mmol, 2.41 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 10.5 mmol, 2.0 g | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | N,N-dimethylglycine | 10.5 mmol, 1.082 g | CN(CC(=O)O)C | C4H9NO2
reactant | cesium carbonate | 21 mmol, 6.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) oxide | 2.1 mmol, 300 mg | [Cu-]=O
product | 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzonitrile | 1.812 g, 59.5% | FC(C1=NN(C=2CCCCC12)C1=CC=C(C#N)C=C1)(F)F | C15H12F3N3
